US09403832B2
Part A. (S)-tert-butyl 2-(((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate
The reaction of 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine and (S)-tert-butyl 2-(aminomethyl)pyrrol-idine-1-carboxylate under the amine displacement conditions described in example 5.6.5 afforded 74% product.

reactant | 3-bromo-5-chloropyrazolo[1,5-a]pyrimidine | BrC=1C=NN2C1N=C(C=C2)Cl | C6H3BrClN3
reactant | (S)-tert-butyl 2-(aminomethyl)pyrrol-idine-1-carboxylate | NC[C@H]1N(CCC1)C(=O)OC(C)(C)C | C10H20N2O2
product | (S)-tert-butyl 2-(((3-bromopyrazolo[1,5-a]pyrimidin-5-yl)amino)methyl)pyrrolidine-1-carboxylate | 74% | BrC=1C=NN2C1N=C(C=C2)NC[C@H]2N(CCC2)C(=O)OC(C)(C)C | C16H22BrN5O2
